US07727988B2
3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione (Prep47)
3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep 44, 541 mg, 1.25 mmol) was dissolved in degassed DME-water solution (5-1, 37.5 mL). 2-Methyl-pyridine 3-boronic acid (325 mg, 1.9 mmol), Na2CO3 (265 mg, 2.5 mmol), 2-(dicyclohexylphosphino)biphenyl (52 mg, 0.15 mmol) and Pd(PPh3)4 (288 mg, 0.25 mmol) were added and the mixture was refluxed for 3 hours. A second batch was run in parallel in the same reaction conditions on 3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep 44, 108 mg, 0.25 mmol) using 2-Methyl-pyridine 3-boronic acid (65 mg, 0.375 mmol), Na2CO3 (53 mg, 0.5 mmol), 2-(dicyclohexylphosphino)biphenyl (17.5 mg, 0.05 mmol) and Pd(PPh3)4 (57.75 mg, 0.05 mmol) dissolved in degassed DME-water solution (5-1, 7.5 mL). The crudes were then mixed and the solvents were evaporated under vacuum and the residue was partitioned between ethyl acetate and water. The organic phase was dried (Na2SO4) and evaporated; the crude was purified by flash chromatography with DCM-MeOH—NH4OH (98-2-0.2) and then loaded on SCX cartridge washing with MeOH and eluting with MeOH/NH3 95:5 to give the title compound (330 mg, 56% yield).

reactant | 3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione | 1.25 mmol, 541 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCCCl)=O | C15H14ClIN2O3
reactant | 2-Methyl-pyridine 3-boronic acid | 1.9 mmol, 325 mg | CC1=NC=CC=C1B(O)O | C6H8BNO2
reactant | Na2CO3 | 2.5 mmol, 265 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.15 mmol, 52 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 2-Methyl-pyridine 3-boronic acid | 0.375 mmol, 65 mg | CC1=NC=CC=C1B(O)O | C6H8BNO2
reactant | Na2CO3 | 0.5 mmol, 53 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME water | 37.5 mL | COCCOC.O
solvent | DME water | 7.5 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.25 mmol, 288 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.05 mmol, 57.75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.05 mmol, 17.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | 3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione | 330 mg, 56% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C=1C(=NC=CC1)C)CCCCCl)=O | C21H20ClN3O3
